US08980938B2
113 mg of 2-Methyl-2-{[4-(2-phenoxy-ethoxy)-benzo[b]thiophene-5-carbonyl]-amino}-propionic acid tert-butyl ester were dissolved in 2 ml dichloromethane and treated with 1 ml trifluoroacetic acid. After 6h at room temperature the volatiles were evaporated. The residue was treated with ethanol and 2 M HCl and evaporated three times. The resulting residue was crystallized from diethylether/heptane to afford 50 mg of 2-Methyl-2-{[4-(4-trifluoromethyl-benzyloxy)-benzo[b]thiophene-5-carbonyl]-amino}-propionic acid.

reactant | 2-Methyl-2-{[4-(2-phenoxy-ethoxy)-benzo[b]thiophene-5-carbonyl]-amino}-propionic acid tert-butyl ester | 113 mg | C(C)(C)(C)OC(C(C)(NC(=O)C1=C(C2=C(SC=C2)C=C1)OCCOC1=CC=CC=C1)C)=O | C25H29NO5S
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 2-Methyl-2-{[4-(4-trifluoromethyl-benzyloxy)-benzo[b]thiophene-5-carbonyl]-amino}-propionic acid | 50 mg | CC(C(=O)O)(C)NC(=O)C1=C(C2=C(SC=C2)C=C1)OCC1=CC=C(C=C1)C(F)(F)F | C21H18F3NO4S
